US08614328B2
2-(2,6-Dioxo-piperidin-3-yl)-4-(2-methoxy-phenoxy)-isoindole-1,3-dione
A mixture of 3-(2-methoxy-phenoxy)-phthalic acid (0.51 g, 1.8 mmol) and rac-α-aminoglutarimide hydrochloride (0.29 g, 1.8 mmol) in pyridine (10 mL) was heated to reflux for 16 h. The mixture was cooled and evaporated under vacuum. The residue was dissolved in ethyl acetate (100 mL) and washed with dilute aqueous HCl (2×100 mL) and water (100 mL), and was evaporated. The residue was chromatographed using a CH2Cl2-methanol gradient, eluting the title compound at 95:5 CH2Cl2-methanol, 0.59 g, in 88% yield; mp 223-225° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 6.06 (99.46%); 1H NMR (DMSO-d6) δ 2.06-2.11 (m, 1H), 2.53-2.64 (m, 2H), 2.83-2.90 (m, 1H), 3.75 (s, 1H), 5.15 (dd, J=12.4 Hz, J=5.3 Hz, 1H), 6.85 (d, J=8.5 Hz, 1H), 7.06 (t, J=7.3 Hz, 1H), 7.21-7.37 (m, 3H), 7.54 (d, J=7.2 Hz, 1H), 7.72 (t, J=7.9 Hz, 1H), 11.13 (s, 1H); 13C NMR (DMSO-d6) δ 21.9, 31.0, 48.9, 55.7, 113.7, 116.5, 116.7, 120.7, 121.5, 122.3, 127.2, 133.3, 137.0, 141.3, 151.2, 154.7, 165.0, 166.6, 170.0, 172.8; Anal. Calcd for C20H16N2O6: C, 63.16; H, 4.24; N, 7.37. Found: C, 63.00; H, 4.24; N, 7.29.

reactant | 3-(2-methoxy-phenoxy)-phthalic acid | 1.8 mmol, 0.51 g | COC1=C(OC2=C(C(C(=O)O)=CC=C2)C(=O)O)C=CC=C1 | C15H12O6
reactant | rac-α-aminoglutarimide hydrochloride | 1.8 mmol, 0.29 g | Cl.NC1C(=O)NC(CC1)=O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2,6-Dioxo-piperidin-3-yl)-4-(2-methoxy-phenoxy)-isoindole-1,3-dione | 88% yield | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)OC1=C(C=CC=C1)OC)=O)=O | C20H16N2O6
